US08710038B2
Methyl 3-phenyl-1H-pyrazole-5-carboxylate:
To a solution of 2-hydroxy-4-oxo-4-phenyl-but-2-enoic acid methyl ester (12.0 g, 58.2 mmol) in EtOH (30 ml) was added hydrazine monohydrate (2.84 mL, 58.2 mmol) and the mixture was heated at reflux for 5 h. The reaction mixture was cooled to room temperature and filtered in vacuo. The precipitate was washed with EtOH to give the desired product (6.02 g, 51.5% yield): MS (EI) for C11H10N2O2: 203.08 (MH+).

reactant | 2-hydroxy-4-oxo-4-phenyl-but-2-enoic acid methyl ester | 58.2 mmol, 12.0 g | COC(C(=CC(C1=CC=CC=C1)=O)O)=O | C11H10O4
reactant | hydrazine monohydrate | 58.2 mmol, 2.84 mL | O.NN
solvent | EtOH | 30 ml | CCO | C2H6O
product | Methyl 3-phenyl-1H-pyrazole-5-carboxylate | 6.02 g, 51.5% yield | C1(=CC=CC=C1)C1=NNC(=C1)C(=O)OC | C11H10N2O2
